** sch_path: /home/mveliev/ams/projects/02_cmos_inverter/xschem/simulation/tb_tran.sch
**.subckt tb_tran
VDD VDD 0 1.62
VIN VIN 0 PULSE(0 1.62 0 20p 20p 5n 10n)
C_load VOUT 0 20f
x1 VDD VOUT VIN 0 inverter
**** begin user architecture code


.lib /home/mveliev/ams/pdks/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.save all

.temp 27
.tran 0.5p 50n

.control
run
	let I_s      = -i(VDD)
	let V_s      =  v(VDD)
	let P_s      =  V_s*I_s


	meas tran   P_avg         AVG       P_s     from=10n to=50n
	meas tran   P_peak        MAX       P_s     from=10n to=50n
	meas tran   E_s           INTEG     P_s     from=10n to=50n


	let E_period = E_s/4


	print P_avg P_peak E_s E_period
	plot  P_s
.endc


**** end user architecture code
**.ends

* expanding   symbol:  /home/mveliev/ams/projects/02_cmos_inverter/xschem/simulation/inverter.sym # of pins=4
** sym_path: /home/mveliev/ams/projects/02_cmos_inverter/xschem/simulation/inverter.sym
** sch_path: /home/mveliev/ams/projects/02_cmos_inverter/xschem/simulation/inverter.sch
.subckt inverter VDD VOUT VIN VSS
X0 vout vin vdd vdd sky130_fd_pr__pfet_01v8 ad=2.457 pd=8.42 as=2.457 ps=8.42 w=3.51 l=0.15
X1 vout vin vss vss sky130_fd_pr__nfet_01v8 ad=0.7 pd=3.4 as=0.7 ps=3.4 w=1 l=0.15
C0 vout vin 0.13488f
C1 vin vdd 0.2017f
C2 vout vdd 0.41399f
C3 vout vss 0.64505f
C4 vin vss 0.49202f
C5 vdd vss 2.35663f
.ends
.end

