** sch_path: /home/mveliev/ams/projects/02_cmos_inverter/xschem/simulation/tb_tran.sch
**.subckt tb_tran
VDD VDD 0 1.98
VIN VIN 0 PULSE(0 1.98 0 20p 20p 5n 10n)
C_load VOUT 0 20f
x1 VDD VOUT VIN 0 inverter
**** begin user architecture code


.lib /home/mveliev/ams/pdks/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice ff

	.save all

	.temp -40
	.tran 0.5p 50n

	.control
	run
		meas tran tPHL trig VIN val=0.99 rise=2 targ VOUT val=0.99 fall=2
		meas tran tPLH trig VIN val=0.99 fall=2 targ VOUT val=0.99 rise=2

		meas tran vin_rise trig VIN val=0.198 rise=2 targ VIN val=1.782 rise=2
		meas tran vin_fall trig VIN val=1.782 fall=2 targ VIN val=0.198 fall=2

		meas tran vout_rise trig VOUT val=0.198 rise=2 targ VOUT val=1.782 rise=2
		meas tran vout_fall trig VOUT val=1.782 fall=2 targ VOUT val=0.198 fall=2
.endc

**** end user architecture code
**.ends

* expanding   symbol:  /home/mveliev/ams/projects/02_cmos_inverter/xschem/simulation/inverter.sym # of pins=4
** sym_path: /home/mveliev/ams/projects/02_cmos_inverter/xschem/simulation/inverter.sym
** sch_path: /home/mveliev/ams/projects/02_cmos_inverter/xschem/simulation/inverter.sch
.subckt inverter VDD VOUT VIN VSS
X0 vout vin vdd vdd sky130_fd_pr__pfet_01v8 ad=2.457 pd=8.42 as=2.457 ps=8.42 w=3.51 l=0.15
X1 vout vin vss vss sky130_fd_pr__nfet_01v8 ad=0.7 pd=3.4 as=0.7 ps=3.4 w=1 l=0.15
C0 vout vin 0.13488f
C1 vin vdd 0.2017f
C2 vout vdd 0.41399f
C3 vout vss 0.64505f
C4 vin vss 0.49202f
C5 vdd vss 2.35663f
.ends
.end

